US07560558B2
Compound 16: 6,7-Dimethoxy-4-(1-naphthyloxy)quinoline
4-Chloro-6,7-dimethoxyquinoline (100 mg), 1-hydroxy-2-naphthonic acid (252 mg), and 4-dimethylaminopyridine (164 mg) were suspended in o-dichlorobenzene (3 ml), and the suspension was stirred at 150° C. for 2 hr. The reaction solution was cooled to room temperature, water was then added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (119 mg, yield 80%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
reactant | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 164 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6,7-Dimethoxy-4-(1-naphthyloxy)quinoline | 119 mg, yield 80% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=CC2=CC=CC=C12 | C21H17NO3
